US07378417B2
7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(2-chloro-5-sulfamoyl-phenyl)-amide
The title compound was prepared from 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.2) and 3-amino-4-chloro-benzenesulfonamide [CAS-No. 29092-34-0; commercially available] according to general procedure II. Light yellow solid. MS (ISP) 563.1 [(M−H−]; mp 300° C.

reactant | 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C15H7F6N3O2
reactant | 3-amino-4-chloro-benzenesulfonamide | NC=1C=C(C=CC1Cl)S(=O)(=O)N | C6H7ClN2O2S
product | 7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(2-chloro-5-sulfamoyl-phenyl)-amide | ClC1=C(C=C(C=C1)S(N)(=O)=O)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C21H12ClF6N5O3S
